US04077958
(a) 2-[2-[4-(2-Chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]-isoquinoline-1,3(2H-dione
Following the procedure of example 88(a) but substituting 5.2 g. (0.026 mole) of 1-(o-chlorophenyl)piperazine for the N-phenylpiperazine, one obtains the hydrochloride salt of 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]-isoquinoline-1,3(2H)-dione. This salt is neutralized with aqueous sodium hydroxide and extracted with chloroform. The chloroform solution is dried (Na2SO4), concentrated to 200 ml. and allowed to stand open to the air. The product slowly crystallizes and is removed by filtration. Drying at 50° (60 mm.) overnight yields 4 g. of 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione; m.p. 213°-214°.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]isoquinoline-1,3(2H)-dione | ClC1=C(C=CC=C1)N1CCN(CC1)CCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C24H22ClN3O2
product | 2-[2-[4-(2-Chlorophenyl)-1-piperazinyl]ethyl]-1H-benz[de]-isoquinoline | ClC1=C(C=CC=C1)N1CCN(CC1)CCN1CC2=CC=CC=3C2=C(C1)C=CC3 | C24H26ClN3
